US09388153B2
Step 3. 2-(3-((5-(3-Fluorophenyl)-2,3-dihydrobenzofuran-3-yl)amino)phenoxy)acetic acid
Aqueous lithium hydroxide (1 N, 1 mL, 1 mmol) was added to a solution of isopropyl 2-(3-((5-(3-fluorophenyl)-2,3-dihydrobenzofuran-3-yl)amino)phenoxy)acetate (22 mg, 0.052 mmol) in THF (1 mL) in a scintillation vial. The vial was sealed and heated at 40° C. After 24 h, the reaction mixture was allowed to cool and the volatiles were concentrated. The residue was acidified with hydrochloric acid (1 N, 1 mL), and extracted with ethyl acetate (3×2 mL). The combined organic extracts were dried (Na2SO4), filtered and concentrated to afford 11 mg (56%) of the title compound.

reactant | lithium hydroxide | 1 mmol, 1 N, 1 mL | [OH-].[Li+]
reactant | isopropyl 2-(3-((5-(3-fluorophenyl)-2,3-dihydrobenzofuran-3-yl)amino)phenoxy)acetate | 0.052 mmol, 22 mg | FC=1C=C(C=CC1)C=1C=CC2=C(C(CO2)NC=2C=C(OCC(=O)OC(C)C)C=CC2)C1 | C25H24FNO4
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 2-(3-((5-(3-Fluorophenyl)-2,3-dihydrobenzofuran-3-yl)amino)phenoxy)acetic acid | 11 mg, 56% | FC=1C=C(C=CC1)C=1C=CC2=C(C(CO2)NC=2C=C(OCC(=O)O)C=CC2)C1 | C22H18FNO4
